US06605629B1
A mixture of ethyl 5-bromo-6-(4-fluoro-1-naphthyl)-6-oxohexanoate (34.3 g), sodium formate (34.0 g) and methanol (150 ml) was stirred with heating under reflux for 16 hours. The reaction mixture was diluted with ethyl acetate (500 ml) and washed with water (200 ml×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 6-(4-fluoro-1-naphthyl)-5-hydroxy-6-oxohexanoate was obtained as a yellow oil (19.0 g, 65%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | ethyl 5-bromo-6-(4-fluoro-1-naphthyl)-6-oxohexanoate | 34.3 g | BrC(CCCC(=O)OCC)C(=O)C1=CC=C(C2=CC=CC=C12)F | C18H18BrFO3
reactant | sodium formate | 34.0 g | C(=O)[O-].[Na+]
reactant | methanol | 150 ml | CO | CH4O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 6-(4-fluoro-1-naphthyl)-5-hydroxy-6-oxohexanoate | FC1=CC=C(C2=CC=CC=C12)C(C(CCCC(=O)OCC)O)=O | C18H19FO4
